### ISSUE TITLE
`simp` unable to rewrite seemingly identical terms

### ISSUE THREAD

**Issue by zhengyao-lin** [leanprover/lean4#10559]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [X] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [X] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [X] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

Hello, I'm new to Lean so I'm not sure whether this is an expected behavior:

```
def f.{u, v} {T : Type u} {U : Type v} (x : T) (y : U) : T := z
  where z := x

theorem test (h₁ : f x y = 0) : true := by
  generalize h₂ : f.z x = w
  simp only [f] at h₁
  simp only [h₁] at h₂ -- This fails
  -- This works: rw [h₁] at h₂
  sorry
```

At `simp only [h₁] at h₂`, the proof state is
```
x : ℕ
U : Type u_1
y : U
h₁ : f.z x = 0
w : ℕ
h₂ : f.z x = w
⊢ true = true
``` 
So the `simp` should work there right?
I suspect it's because of the definition of `f.z` somehow captures the unused universe `v`.
This could also be related to #4613

With `set_option trace.Meta.Tactic.simp true` enabled, I also got this confusing trace
```
[Meta.Tactic.simp.unify] h₁:1000, failed to unify
      f.z x
    with
      f.z x
```

### Related Issues

Potentially related to #4613 but not sure.

### Versions

I'm using Lean version 4.23.0-rc2

**Comment by Kha** [comment]
Yes, if you add `set_option pp.all true`, the context is
```
h₁ : @Eq.{1} Nat (@f.z.{0, u_1} Nat x) (@OfNat.ofNat.{0} Nat (nat_lit 0) (instOfNatNat (nat_lit 0)))
w : Nat
h₂ : @Eq.{1} Nat (@f.z.{0, ?u.123} Nat x) w
```
I don't think `simp` should let h1 instantiate the mvar of h2 here so this is likely working as intended, though the error message could be improved

**Comment by zhengyao-lin** [comment]
Thanks for the confirmation! Is there a reason why `z` has to capture the unused universe?
